US04229441
B. Methyl 4,7,8,9-tetra-O-acetyl-N-acetyl-2-S-[6-(5-cholesten-3β-yloxy)hexyl]-2-thio-D-neuraminate
Boron trifluoride etherate (700 μl, 5.5 mmol) is added to a solution of methyl 2,4,7,8,9-penta-O-acetyl-N-acetyl-D-neuraminate (1.01 g, 1.96 mmol) and 6-(5-cholesten-3β-yloxy)-hexane-1-thiol (0.98 g, 1.96 mmol) in dry chloroform (5 ml). The mixture is stirred under nitrogen for 5 hours at room temperature, and washed with aqueous sodium bicarbonate and water. The dried solution is concentrated to a residue which is put on a silica gel column and eluted with chloroform-ethyl ether-methanol (31:10:1). The β-anomer is isolated as a glass (400 mg), [α]D -38.5° (c 1.5, chloroform).

reactant | Boron trifluoride etherate | 5.5 mmol, 700 μl | B(F)(F)F.CCOCC
reactant | methyl 2,4,7,8,9-penta-O-acetyl-N-acetyl-D-neuraminate | 1.96 mmol, 1.01 g | C(C)(=O)OC1(C(OC)=O)C[C@H](OC(C)=O)[C@@H](NC(C)=O)[C@@H](O1)[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O | C22H31NO14
reactant | 6-(5-cholesten-3β-yloxy)-hexane-1-thiol | 1.96 mmol, 0.98 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OCCCCCCS | C33H58OS
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4,7,8,9-tetra-O-acetyl-N-acetyl-2-S-[6-(5-cholesten-3β-yloxy)hexyl]-2-thio-D-neuraminate | 400 mg | C(C)(=O)O[C@H]1CC(C(OC)=O)(SCCCCCCO[C@@H]2CC3=CC[C@H]4[C@@H]5CC[C@H]([C@@H](CCCC(C)C)C)[C@]5(CC[C@@H]4[C@]3(CC2)C)C)O[C@H]([C@@H]1NC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O | C53H85NO13S
